US06369078B1
4-Chloro-1-(phenoxycarbonyl)-2-n-hexyl-1,2-dihydropyridine
To a stirred mixture of 4-chloropyridine hydrochloride (3 g, 20 mmol) in 200 mL of THF at −78° C. was added 24 mL (48 mmol) of pentylmagnesium bromide (2M soln in ether) slowly dropwise. After being stirred at −78° C. for 20 minutes, phenyl chloroformate (2.51 mL, 20 mmol) was added and the mixture was stirred for 30 minutes at −78° C. The cooling bath was removed and the reaction mixture was allowed to stir while slowly warming to room temperature. Aqueous 20% NH4Cl (50 mL) and ether (80 mL) were added, the layers were separated, and the queous phase was extracted twice with ether. The combined organic extracts were washed successively with 50 mL portions of saturated aqueous CuSO4, water, saturated NaHCO3, and brine. The organic phase was dried over MgSO4, filtered through Celite, and evaporated to give 6.4 g (quantitative) of the crude product. This crude material was used directly in the next step to make the N-Boc derivative. 1H NMR (250 MHz) δ7.52-6.99 (m, 5 H), 5.63 (d, 1 H), 5.24 (m, 1 H), 4.95 (m, 1 H), 1.93-1.16 (m, 8 H), 0.87 (t, 3 H).

reactant | 4-chloropyridine hydrochloride | 20 mmol, 3 g | Cl.ClC1=CC=NC=C1
reactant | pentylmagnesium bromide | 48 mmol, 2M, 24 mL | C(CCCC)[Mg]Br
reactant | phenyl chloroformate | 20 mmol, 2.51 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-Chloro-1-(phenoxycarbonyl)-2-n-hexyl-1,2-dihydropyridine | ClC1=CC(N(C=C1)C(=O)OC1=CC=CC=C1)CCCCCC | C18H22ClNO2
